US08754114B2
N-(Cyclopropylmethyl)-2-(4-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}phenyl)propanamide
This compound was prepared by using procedures analogous to those described for the synthesis of Example 14 starting from 2-(4-{1-[3-({[(2,2,2-trifluoro ethyl)amino]carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}phenyl)propanoic acid (prepared by the procedure for Example 14, step 3) and cyclopropylmethylamine (Aldrich, Cat. No. 359521), LCMS (M+H)+: m/z=536.2.

reactant | 2-(4-{1-[3-({[(2,2,2-trifluoro ethyl)amino]carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}phenyl)propanoic acid | FC(CNC(=O)NC=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C2=CC=C(C=C2)C(C(=O)O)C)(F)F | C25H21F3N4O3
reactant | cyclopropylmethylamine | C1(CC1)CN | C4H9N
product | N-(Cyclopropylmethyl)-2-(4-{1-[3-({[(2,2,2-trifluoroethyl)amino]carbonyl}amino)phenyl]-1H-benzimidazol-5-yl}phenyl)propanamide | C1(CC1)CNC(C(C)C1=CC=C(C=C1)C1=CC2=C(N(C=N2)C2=CC(=CC=C2)NC(=O)NCC(F)(F)F)C=C1)=O | C29H28F3N5O2
